US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(1,3,5-trimethyl-1H-pyrazol-4-yl)-amine was prepared from 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1.5-a]pyridine (0.200 g, 0.65 mmol) and 1,3,5-trimethyl-1H-pyrazol-4-ylamine (0.106 g, 0.845 mmol) with 2,2-bis-dicyclohexylphosphanyl-biphenyl (0.048 g, 0.088 mmol) as the ligand in a manner analogous to Example 2d. Product was isolated as an orange solid (0.157 g, 61%). MP=194-196° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 8.65 (d, J=6.56 Hz, 1H), 8.37 (d, J=7.50 Hz, 2H), 8.13 (s, 1H), 8.04 (d, J=7.52 Hz, 2H), 7.86 (d, J=7.47 Hz, 1H), 7.04 (t, J=7.26 Hz, 1H), 3.65 (s, 3H), 3.27 (s, 3H), 2.09 (s, 3H, 1.99 (s, 3H). MS=397 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1.5-a]pyridine | 0.65 mmol, 0.200 g | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O2S
reactant | 1,3,5-trimethyl-1H-pyrazol-4-ylamine | 0.845 mmol, 0.106 g | CN1N=C(C(=C1C)N)C | C6H11N3
reactant | 2,2-bis-dicyclohexylphosphanyl-biphenyl | 0.088 mmol, 0.048 g | C1(CCCCC1)P(C1(C(=CC=CC1)C1=CC=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H54P2
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(1,3,5-trimethyl-1H-pyrazol-4-yl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C(=NN(C2C)C)C | C19H20N6O2S
